US04293561
Ethereal hydrogen chloride is added dropwise to a solution of 1.0 g 1-[2-(2-naphthoyl)ethyl]imidazole in 100 ml anhydrous benzene until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized from methanol/acetone to yield 1-[2-(2-naphthoyl)ethyl]imidazole hydrochloride, m.p. 182.5°-186° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-[2-(2-naphthoyl)ethyl]imidazole | 1.0 g | C1=C(C=CC2=CC=CC=C12)C(=O)CCN1C=NC=C1 | C16H14N2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-[2-(2-naphthoyl)ethyl]imidazole hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C(=O)CCN1C=NC=C1 | InChI=1S/C16H14N2O.ClH/c19-16(7-9-18-10-8-17-12-18)15-6-5-13-3-1-2-4-14(13)11-15;/h1-6,8,10-12H,7,9H2;1H
